US08211928B2
To a stirred solution of (R)-2-amino-2-phenylacetic acid hydrochloride (1.0 g, 4.10 mmol) and Hunig's base (1.0 mL, 6.15 mmol) in DMF (15 mL) was added cyclopentyl isocyanate (0.46 mL, 4.10 mmol) dropwise and over 10 minutes. After stirring at room temperature for 3 hours, the reaction was concentrated under reduced pressure and the resulting residue was taken up in ethyl acetate. The organic layer was washed with H2O and brine, dried (MgSO4), filtered, and concentrated under reduced pressure. (R)-tert-butyl 2-(3-cyclopentylureido)-2-phenylacetate was obtained as an opaque oil (1.32 g; 100%) and used without further purification. 1H NMR (500 MHz, CD3C1-D) δ ppm 1.50-1.57 (m, 2H) 1.58-1.66 (m, 2H) 1.87-1.97 (m, 2H) 3.89-3.98 (m, 1H) 5.37 (s, 1H) 7.26-7.38 (m, 5H). LCMS: Anal. Calcd. for C18H26N2O3 318.19 found 319.21 (M+H)+; HPLC XTERRA® C-18 3.0×50 mm, 0 to 100% B over 4 minutes, 1 minute hold time, A=90% water, 10% methanol, 0.1% TFA, B=10% water, 90% methanol, 0.1% TFA, RT=2.82 min, 96% homogeneity index.

reactant | (R)-2-amino-2-phenylacetic acid hydrochloride | 4.10 mmol, 1.0 g | Cl.N[C@@H](C(=O)O)C1=CC=CC=C1
reactant | Hunig's base | 6.15 mmol, 1.0 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | cyclopentyl isocyanate | 4.10 mmol, 0.46 mL | C1(CCCC1)N=C=O | C6H9NO
reactant | DMF | 15 mL | CN(C)C=O | C3H7NO
product | (R)-tert-butyl 2-(3-cyclopentylureido)-2-phenylacetate | C1(CCCC1)NC(N[C@@H](C(=O)OC(C)(C)C)C1=CC=CC=C1)=O | C18H26N2O3
